US06187769B1
Synthesis of 4-(4-bromobutyl)-3-chloromethyl-4,5-dihydro-7-methoxy-1,4-benzoxazepin-5-one
2.1 g of 4,5-dihydro-7-methoxy-3-methyl-1,4-benzoxazepin-5-one was dissolved in 50 ml of acetone, 5.5 g (2.5 equivalents) of 1,4-dibromobutane and 3.5 g (2.5 equivalents) of potassium carbonate were added, then the resultant mixture was heated and refluxed for 10 hours. This was allowed to cool, then was filtered, the filtrate was concentrated, and the residue was dissolved in 60 ml of carbon tetrachloride. 1.6 g (1.2 equivalents) of N-chlorosuccinimide was added and the resultant mixture was agitated at 90° C. for minutes 15 minutes. This was allowed to cool, then was filtered, the filtrate was concentrated, water was added, and extraction was performed by methylene chloride. The methylene chloride extract was washed with water and saturated saline and was dried with anhydrous magnesium sulfate. The solvent was distilled off and the resultant crude product was refined with silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain the above-referenced compound in an amount of 1.4 g (yield of 37%).

reactant | 4,5-dihydro-7-methoxy-3-methyl-1,4-benzoxazepin-5-one | 2.1 g | COC=1C=CC2=C(C(NC(=CO2)C)=O)C1 | C11H11NO3
reactant | 1,4-dibromobutane | 5.5 g, 2.5 equivalents | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 3.5 g, 2.5 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | N-chlorosuccinimide | 1.6 g, 1.2 equivalents | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(4-bromobutyl)-3-chloromethyl-4,5-dihydro-7-methoxy-1,4-benzoxazepin-5-one | yield of 37% | BrCCCCN1C(=COC2=C(C1=O)C=C(C=C2)OC)CCl | C15H17BrClNO3
